US05969182
JP 077364 describes the reaction of a solution of sodium sarcosinate with O-methylisourea methyl sulfate at pH 11 to give creatine.

reactant | sodium sarcosinate | N(C)CC(=O)[O-].[Na+]
reactant | O-methylisourea methyl sulfate | COS(=O)(=O)O.COC(N)=N
product | creatine | O=C(O)CN(C)C(N)=N | C4H9N3O2
